US06329370B1
1-(3,5-Dichloro-pyridin-4-ylmethyl)-6-methoxy-4-(4-methyl-piperazin-1-yl)-phthalazine (Compound 48)
A solution of 4-chloro-1-(3,5-dichloro-pyridin-4-ylmethyl)-6-methoxy-phthalazine (1 g, 2.82 mmoles), prepared as described in example 45, in DMF (25 ml) was stirred under dry N2 at room temperature, and dropwise added with 1-methylpiperazine (0.848 g, 8.46 mmoles). The mixture was heated at 100° C. for 20 hours, then brought to small volume and partitioned between water and CH2Cl2. The organic phase was washed with water, anhydrified and concentrated to give a residue which was flash chromatographed (eluent: CH2Cl2/CH3OH/NH4OH 95:5:0.5). The resultant solid was crystallised from tert-butyl-methyl ether (35 ml) to give 0.4 g of the title compound (yield: 34%). m.p.: 160-162° C.

reactant | 4-chloro-1-(3,5-dichloro-pyridin-4-ylmethyl)-6-methoxy-phthalazine | 2.82 mmoles, 1 g | ClC1=NN=C(C2=CC=C(C=C12)OC)CC1=C(C=NC=C1Cl)Cl | C15H10Cl3N3O
reactant | 1-methylpiperazine | 8.46 mmoles, 0.848 g | CN1CCNCC1 | C5H12N2
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 1-(3,5-Dichloro-pyridin-4-ylmethyl)-6-methoxy-4-(4-methyl-piperazin-1-yl)-phthalazine | 0.4 g, yield: 34% | ClC=1C=NC=C(C1CC1=NN=C(C2=CC(=CC=C12)OC)N1CCN(CC1)C)Cl | C20H21Cl2N5O
